US08703810B2
To a solution of 3-fluoro-5-methoxybenzoic acid (5.1 g, 30 mmol) in dry ether at 0° C., LiAlH4 (3.44 g, 90 mmol) was added slowly. The reaction mixture was stirred at room temperature for 3 h, and quenched by slow addition of 1 M aqueous HCl solution (30 mL). The mixture was extracted with ethyl acetate (3×15 mL). The organic phase was dried over Na2SO4 and concentrated to give 4.9 g of (3-fluoro-5-methoxyphenyl)methanol. 1H NMR (CDCl3): δ 6.67-6.70 (m, 2H), 6.50-6.55 (m, 1H), 4.64 (d, 2H), 3.79 (s, 3H).

reactant | 3-fluoro-5-methoxybenzoic acid | 30 mmol, 5.1 g | FC=1C=C(C(=O)O)C=C(C1)OC | C8H7FO3
reactant | LiAlH4 | 90 mmol, 3.44 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | ether | CCOCC | C4H10O
product | (3-fluoro-5-methoxyphenyl)methanol | 4.9 g | FC=1C=C(C=C(C1)OC)CO | C8H9FO2
